US04827004
5 g of (7E)-11-(tert.-butyldimethylsiloxy)-4,8,12-trimethyl-3,7,12-tridecatrien-2-ol are added dropwise at 0° to a suspension of 25 g of manganese dioxide (active, precipitated) in 50 ml of dichloromethane. After stirring at room temperature for 5 hours the reaction mixture is filtered over sodium sulphate and the filtrate is evaporated. The material obtained is subjected twice more to the same oxidation process with fresh manganese dioxide each time in order to achieve complete reaction. Chromatography of the crude product obtained on silica gel with hexane-ethyl acetate 2%→5% yields (7E)-11-(tert.-butyldimethylsiloxy)-4,8,12-trimethyl-3,7,12-tridecatrien-2-one as a yellowish which has a purity of 95% in accordance with a gas chromatography. NMR (250 MHz, CDCl3): 6.05 (s, H-C(3)); 5.1 (m, H-C(7)); 4.84 and 4.75 (2m, 2H-C(13)); 4.0 (t, J=6.5, H-C(11)); 2.3-1.4 (m, 4CH2, 3CH 3); 0.89 (s, SiC(CH3)3); 0.35 and 0.0 (2s, Si(CH3)2).

reactant | (7E)-11-(tert.-butyldimethylsiloxy)-4,8,12-trimethyl-3,7,12-tridecatrien-2-ol | 5 g | C(C)(C)(C)[Si](OC(CC/C(=C/CCC(=CC(C)O)C)/C)C(=C)C)(C)C | C22H42O2Si
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 25 g | [O-2].[O-2].[Mn+4]
product | (7E)-11-(tert.-butyldimethylsiloxy)-4,8,12-trimethyl-3,7,12-tridecatrien-2-one | C(C)(C)(C)[Si](OC(CC/C(=C/CCC(=CC(C)=O)C)/C)C(=C)C)(C)C | C22H40O2Si
